US07256170B2
f) Preparation of 2,6,8/2,7,9-trimethylspiro[4,5]dec-7-en-1-ol
A mixture of 2,6,8 and 2,7,9-trimethylspiro[4,5]dec-7-en-1-one was reduced with LiAlH4 according to the general procedure (example 2, procedure 3) to give the title product in 87% yield as a mixture of isomers. The crude product was purified by bulb-to-bulb distillation (B.p.=82° C./0.02 mbar).

reactant | 2,7,9-trimethylspiro[4,5]dec-7-en-1-one | CC1C(C2(CC1)CC(=CC(C2)C)C)=O | C13H20O
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 2,7,9-trimethylspiro[4,5]dec-7-en-1-ol | 87% yield | CC1C(C2(CC1)CC(=CC(C2)C)C)O | C13H22O
